US04675405
N-[3-[(2-Quinolinyl)methoxy]phenyl]trifluoromethane sulfonamide
To a solution of 3-[(2-quinolinyl)methoxy]aniline (4.0 g) (prepared by following the procedures of Example 1B and 1C and using chloromethylquinoline) in methylene chloride at 0° C. is slowly added a solution of trifluoromethyl sulfonic anhydride in methylene chloride. The reaction is allowed to warm to room temperature. The mixture is filtered through celite and silica gel and concentrated to an oil. The oil is crystallized from ethanol/water to give 1.7 g (28% yield) of product, m.p. 144°-146° C.

reactant | 3-[(2-quinolinyl)methoxy]aniline | 4.0 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(N)C=CC1 | C16H14N2O
reactant | chloromethylquinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | trifluoromethyl sulfonic anhydride | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-[(2-Quinolinyl)methoxy]phenyl]trifluoromethane sulfonamide | 1.7 g, 28% yield | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F | C17H13F3N2O3S
